US06887896B1
(2E)-3-(4-Chloro-3-ethoxy-8-isopropyl-5,5-dimethyl-5,6 dihydronaphthalen-2-yl)-2-fluoro-but-2-en-1-ol (Compound A-144)
Following General Procedure G-1, ethyl (2E)-3-(4-chloro-3-ethoxy-8-isopropyl-5,5-dimethyl-5,6-dihydronaphthalen-2-yl)-2-fluoro-but-2-enoate (Compound A-133, 0.27 g, 0.66 mmol) and diisobutylaluminum hydride (1M in methylene chloride, 2.64 mL, 2.64 mmol) were reacted to give the title compound as a colorless oil after purification by flash chromatography (silica gel, 10% to 15% ethyl acetate in hexanes).

reactant | ethyl (2E)-3-(4-chloro-3-ethoxy-8-isopropyl-5,5-dimethyl-5,6-dihydronaphthalen-2-yl)-2-fluoro-but-2-enoate | 0.66 mmol, 0.27 g | ClC1=C(C(=CC=2C(=CCC(C12)(C)C)C(C)C)/C(=C(\C(=O)OCC)/F)/C)OCC | C23H30ClFO3
reactant | diisobutylaluminum hydride | 2.64 mmol, 1M, 2.64 mL | [H-].C(C(C)C)[Al+]CC(C)C
product | (2E)-3-(4-Chloro-3-ethoxy-8-isopropyl-5,5-dimethyl-5,6 dihydronaphthalen-2-yl)-2-fluoro-but-2-en-1-ol | ClC1=C(C(=CC=2C(=CCC(C12)(C)C)C(C)C)/C(=C(\CO)/F)/C)OCC | C21H28ClFO2
